US05082976
The crude solution of β-dimethylamino-2-nitro-styrene, prepared analogously to Example 1, was diluted with 250 ml of DMF and 3 g of CuCl were added. The mixture was areated at 50° C. for 45 min. using oxygen and the solvent was then removed. After customary working-up, it was possible to isolate 88.8% of o-nitrobenzaldehyde, based on the o-nitro-toluene employed. The proportion of secondary components in the precipitated product was only 0.8%.

reactant | β-dimethylamino-2-nitro-styrene | CN(C=CC1=C(C=CC=C1)[N+](=O)[O-])C | C10H12N2O2
reactant | oxygen | O=O | O2
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
catalyst | CuCl | 3 g | Cl[Cu]
product | o-nitrobenzaldehyde | 88.8% | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
